US05777132
Preparation of N-Benzyl-N-(p-chloro-α-cyanobenzyl)-2,2,2-trifluoroacetamide
Aqueous hydrochloric acid (62.5 mL of 12N, 0.75 mol) in water (100 mL) is treated with benzylamine (80.4 g, 0.75 mol) at <20° C., then treated sequentially with a solution of sodium cyanide (27.0 g, 0.55 mol) in water and methylene chloride, warmed to 35° C., treated with a solution of p-chlorobenzaldehyde (70.3 g, 0.5 mol) in methylene chloride, allowed to warm to 50° C., and held at 45° C. for 3.5 hours. The phases are separated and the organic phase is washed with water and concentrated to a syrup residue. The residue is dissolved in toluene and ethyl acetate, treated with trifluoroacetic anhydride (105.0 g, 0.5 mol) at 20°-30° C. over a 30 minute period and diluted with heptane. The resultant white fluffy solid precipitate is filtered and dried to give the title product, 119.8 g (70.7% yield), mp 131°-132° C., identified by 1H, 13C and 19 F NMR analyses.

reactant | hydrochloric acid | 0.75 mol, 12N, 62.5 mL | Cl | ClH
reactant | benzylamine | 0.75 mol, 80.4 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium cyanide | 0.55 mol, 27.0 g | [C-]#N.[Na+]
reactant | p-chlorobenzaldehyde | 0.5 mol, 70.3 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | trifluoroacetic anhydride | 0.5 mol, 105.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | water | 100 mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | heptane | CCCCCCC | C7H16
product | N-Benzyl-N-(p-chloro-α-cyanobenzyl)-2,2,2-trifluoroacetamide | 70.7% yield | C(C1=CC=CC=C1)N(C(C(F)(F)F)=O)C(C1=CC=C(C=C1)Cl)C#N | C17H12ClF3N2O
